US05905076
(5R,6S)-6-benzyloxycarbonylamino-4-oxa-1-azabicyclo[3,2,0]heptan-7-one (950 mg, 3.624 mmole) was hydrogenated with 3 g of 10% palladium on activated carbon in ethyl acetate (80 ml) at 50 psi hydrogen pressure at room temperature for 6 hrs. after removal of catalyst by filtration, deprotected (5R,6S)-6-amino-4-oxa-1-azabicyclo[3,2,0]heptan-7-one in ethyl acetate was obtained.

reactant | (5R,6S)-6-benzyloxycarbonylamino-4-oxa-1-azabicyclo[3,2,0]heptan-7-one | 3.624 mmole, 950 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H]2OCCN2C1=O | C13H14N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 3 g | [Pd] | Pd
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | (5R,6S)-6-amino-4-oxa-1-azabicyclo[3,2,0]heptan-7-one | N[C@H]1[C@H]2OCCN2C1=O | C5H8N2O2
